US06939885B2
Iron powder (28.1 g, 0.502 mol) was added as small portions to 1,2-difluoro nitrobenzene (20.0 g, 0.126 mol) in methanol (200 ml) and heated to 60° C. Ammonium chloride (48.4 g, 0.91 mol) in water (100 ml) was added drop wise and the reaction mixture refluxed for 5 hr. The reaction mixture was filtered over Celite and washed with methanol. Methanol was removed, and the aqueous layer was extracted with ethylacetate, washed with brine, dried over sodium sulphate and concentrated to yield 1,2-difluoro-4-aminobenzene (7 g, 43%).

reactant | 1,2-difluoro nitrobenzene | 0.126 mol, 20.0 g | FC1=C(C(=CC=C1)[N+](=O)[O-])F | C6H3F2NO2
reactant | Ammonium chloride | 0.91 mol, 48.4 g | [Cl-].[NH4+]
solvent | methanol | 200 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
catalyst | Iron | 0.502 mol, 28.1 g | [Fe] | Fe
product | 1,2-difluoro-4-aminobenzene | 7 g, 43% | FC1=C(C=C(C=C1)N)F | C6H5F2N
